US04472433
Thus obtained 2-oxo-7-(2-chlorophenoxy)indoline was treated successively with sodium hydroxide in a similar manner to that of Example 29 to give sodium 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate, which was identified with the crop obtained in Example 5-(2) by I.R. and N.M.R. spectra.

reactant | 2-oxo-7-(2-chlorophenoxy)indoline | O=C1NC2=C(C=CC=C2C1)OC1=C(C=CC=C1)Cl | C14H10ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate | NC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)[O-].[Na+] | InChI=1S/C14H12ClNO3.Na/c15-10-5-1-2-6-11(10)19-12-7-3-4-9(14(12)16)8-13(17)18;/h1-7H,8,16H2,(H,17,18);/q;+1/p-1
